US08609657B2
2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide
2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide (81 mg, 0.106 mmol) was suspended in isopropanol (2 ml) and 2M sodium hydroxide (aq) (0.53 ml, 1.060 mmol) was added. The reaction mixture was stirred at RT for 2 h, the solvent removed and the residue dissolved in water (1 ml) and acidified to pH˜6 by the addition of 2M hydrogen chloride (aq). The resultant suspension was extracted with dichloromethane (3×2 ml), the organic layer separated (hydrophobic frit) and concentrated in vacuo to give a brown solid which dissolved in MeOH:DMSO (1 ml, 1:1, v/v) and purified by MDAP (method A). The appropriate fractions were concentrated in vacuo to give the title compound as a white solid (45 mg).

reactant | 2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide | 0.106 mmol, 81 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C(=NC=C(C1)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C)OC | C36H35F2N7O6S2
reactant | sodium hydroxide | 1.060 mmol, 2M, 0.53 ml | [OH-].[Na+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
product | 2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide | 45 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C(=NC=C(C1)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C)OC | C30H31F2N7O4S
